US08071592B2
(h) 3-(methyloxy)-6-({[4-(methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazine
3-Bromo-6-({[4-(methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazine (1.19 g, 3.44 mmol) was suspended in methanol and a solution of sodium methoxide (25% in methanol, 10.1 mL) was added at room temperature under argon. After 20 min all the solid went into solution, the reaction was stirred overnight at rt. The solvent was removed and the residue partitioned between water (250 mL) and 10% MeOH/DCM (200 mL). The aqueous phase was extracted with 10% MeOH/DCM (2×100 mL). The combined organic phases were dried, evaporated and subjected to column chromatography on silica gel eluting with DCM to afford 0.6 g of the title compound (59%).

reactant | 3-Bromo-6-({[4-(methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazine | 3.44 mmol, 1.19 g | BrC1=CN=C2C(=N1)N=C(C=C2)OCC2=CC=C(C=C2)OC | C15H12BrN3O2
reactant | sodium methoxide | 10.1 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(methyloxy)-6-({[4-(methyloxy)phenyl]methyl}oxy)pyrido[2,3-b]pyrazine | 0.6 g, 59% | COC1=CN=C2C(=N1)N=C(C=C2)OCC2=CC=C(C=C2)OC | C16H15N3O3
